US05763450
A mixture of 5.0 g of 3-iodo-4,5-dimethoxy-benzaldehyde, 1.18 g of hydroxylamine hydrochloride, 1.37 g of pyridine and 17 ml of toluene is held at reflux for 2 hrs. (see A. Saednya, Synthesis 1982, 190). The precipitate which separates after cooling is filtered off under suction. Chromatography on silica gel with methylene chloride/methanol 9:1 yields 3.09 g of 3-iodo-4,5-dimethoxy-benzonitrile as a colourless solid. Yield: 63%. Mass spectrum: peaks inter alia at m/e: 289 (100%), 274 (38%), 132 (30%), 119 (43%).

reactant | 3-iodo-4,5-dimethoxy-benzaldehyde | 5.0 g | IC=1C=C(C=O)C=C(C1OC)OC | C9H9IO3
reactant | hydroxylamine hydrochloride | 1.18 g | Cl.NO
reactant | pyridine | 1.37 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 17 ml | C1(=CC=CC=C1)C | C7H8
product | 3-iodo-4,5-dimethoxy-benzonitrile | 3.09 g, Yield: 63% | IC=1C=C(C#N)C=C(C1OC)OC | C9H8INO2
